US08110687B2
To a solution of N-[4-chloro-3-(trifluoromethyl)phenyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide (3.65 g mg, 9.53 mmol) in DCM (100 mL) at 0° C. was added a 1.0M solution of BBr3 in DCM (14.3 mL) dropwise. The reaction mixture was allowed to warm to rt overnight. The reaction mixture was poured onto ice and extracted with EtOAc. The organic solution was dried over Na2SO4, filtered and evaporated. The residue was triturated with DCM to give N-[4-chloro-3-(trifluoromethyl)phenyl]-7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide as a beige solid (3.25 g, 92.4%). LCMS: (FA) ES+ 370.2, ES− 368.1.

reactant | N-[4-chloro-3-(trifluoromethyl)phenyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 9.53 mmol, 3.65 g | ClC1=C(C=C(C=C1)NC(=O)C1CC2=CC(=CC=C2CC1)OC)C(F)(F)F | C19H17ClF3NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 14.3 mL | C(Cl)Cl | CH2Cl2
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 3.25 g, 92.4% | ClC1=C(C=C(C=C1)NC(=O)C1CC2=CC(=CC=C2CC1)O)C(F)(F)F | C18H15ClF3NO2
